US05036075
The experiment is carried out as in Example 1, starting with 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (6.7 g), triethylamine (3.5 cc), 4-(4-fluorobenzoyl)piperidine (5.2 g) and sodium iodide (3.7 g) in dimethylformamide (100 cc). The mixture is heated for 6 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under current of argon at medium pressure (0.5-1.5 bar) with dichloromethane as eluant, and recrystallization from boiling acetonitrile (8 cc), 2-{2-[4-(4-fluorobenzoyl)piperidino}ethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (2.9 g) is obtained, m.p. 145° C.

reactant | 2-(2-chloroethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 6.7 g | ClCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C12H10ClNO2S
reactant | triethylamine | 3.5 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-fluorobenzoyl)piperidine | 5.2 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | sodium iodide | 3.7 g | [I-].[Na+]
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-{2-[4-(4-fluorobenzoyl)piperidino}ethyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.9 g | FC1=CC=C(C(=O)C2CCN(CC2)CCN2S(C=3C4=C2C=CC=C4C=CC3)(=O)=O)C=C1 | C24H23FN2O3S
